US09343198B2
To nitrogen saturated water (100 ml) and dichloromethane (100 ml) 9,10-anthraquinone (2.02 g, 9.61 mmol), sodium dithionite (3.39 g, 19.5 mmol), and Adogen 464 (3.5 g) was added. This was stirred for 5 minutes before addition of sodium hydroxide (3.8 g, 95.0 mmol). The reaction mixture was stirred for an additional 10 min and when it turned deep red 1-iodooctane (11.5 g, 47.9 mmol) was added drop wise. The reaction was stirred at room temperature under nitrogen atmosphere over night. The phases were separated and the water phase was extracted two times with dichloromethane and then the combined organic phases were washed two times with water and evaporated to obtain oil with crystals. These were recrystallised in ethanol and removed as starting material. After two crops the ethanol solution was cooled and the ensuing yellow crystals was purified by column chromatography using dichloromethane as mobile phase to yield 9,10-dioctyloxyanthracene (1.3 g, 2.99 mmol) as a white solid. 1H NMR (CDCl3, δ): 0.91 (t, 6H), 1.2-1.45 (m, 16H), 1.64 (m, 4H), 2.04 (m, 4H), 4.16 (t, 4H), 7.46 (m, 4H), 8.28 (m, 4H) MS MALDI-TOF (m/z): 434.247

reactant | dichloromethane | 9.61 mmol, 100 ml, 2.02 g | ClCCl | CH2Cl2
reactant | sodium dithionite | 19.5 mmol, 3.39 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 95.0 mmol, 3.8 g | [OH-].[Na+]
reactant | 1-iodooctane | 47.9 mmol, 11.5 g | ICCCCCCCC | C8H17I
catalyst | Adogen 464 | 3.5 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 9,10-dioctyloxyanthracene | 2.99 mmol, 1.3 g | C(CCCCCCC)OC=1C2=CC=CC=C2C(=C2C=CC=CC12)OCCCCCCCC | C30H42O2
